US05185335
To a solution of 310 parts of methyl 4-(acetylamino]-2-hydroxybenzoate in 2820 parts of N,N-dimethylformamide there were added portionwise 71 parts of a dispersion of sodium hydride in mineral oil (50%) and, after stirring for 1 hour at room temperature, one crystal of potassium iodide and 172 parts of 3-chloro-3-methyl-1-butyne under a nitrogen atmosphere. The whole was stirred for 24 hours at 90° C. and was then poured into NaOH 10% (aq.). The product was extracted with dichloromethane and the extract was dried, filtered and evaporated. The residue was successively stirred in petroleumether and dissolved in dichloromethane. The latter solution was washed with water, NaOH 10% and water and was then dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2). The eluent of the desired fraction was evaporated, yielding in two fractions 41 parts (10.1%) of methyl 4-(acetylamino)-2-(1,1-dimethyl-2-propynyloxy)benzoate (interm. 1).

reactant | methyl 4-(acetylamino]-2-hydroxybenzoate | C(C)(=O)NC1=CC(=C(C(=O)OC)C=C1)O | C10H11NO4
reactant | sodium hydride | [H-].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | 3-chloro-3-methyl-1-butyne | ClC(C#C)(C)C | C5H7Cl
reactant | NaOH | [OH-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 4-(acetylamino)-2-(1,1-dimethyl-2-propynyloxy)benzoate | 10.1% | C(C)(=O)NC1=CC(=C(C(=O)OC)C=C1)OC(C#C)(C)C | C15H17NO4
